US07572820B2
A. 2-[3,5-bis(Trifluoromethyl)phenyl]-4-(chloromethyl)-1,3-oxazole
Synthesized as described in Example 353A using 3,5-bis-(trifluoromethyl)benzamide and 1,3-dichloro-2-propanone: 1H NMR (400 MHz, CDCl3) δ 8.50 (s, 2H), 7.96 (s, 1H), 7.80 (s, 1H), 4.59 (s, 2H).

reactant | 3,5-bis-(trifluoromethyl)benzamide | FC(C=1C=C(C(=O)N)C=C(C1)C(F)(F)F)(F)F | C9H5F6NO
reactant | 1,3-dichloro-2-propanone | ClCC(CCl)=O | C3H4Cl2O
product | 2-[3,5-bis(Trifluoromethyl)phenyl]-4-(chloromethyl)-1,3-oxazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1OC=C(N1)CCl)(F)F | C12H6ClF6NO
